.title KiCad schematic
D8 Net-_D10-Pad2_ +24V LED
D10 Net-_D10-Pad1_ Net-_D10-Pad2_ LED
D12 Net-_D12-Pad1_ Net-_D10-Pad1_ LED
D14 Net-_D14-Pad1_ Net-_D12-Pad1_ LED
D16 Net-_D16-Pad1_ Net-_D14-Pad1_ LED
D18 Net-_D18-Pad1_ Net-_D16-Pad1_ LED
D20 Net-_D20-Pad1_ Net-_D18-Pad1_ LED
U4 Net-_C12-Pad1_ D2 D6 NC_01 Net-_D20-Pad1_ Net-_R16-Pad1_ Net-_R16-Pad1_ GND Net-_C14-Pad1_ D8 STCS2A
R21 Net-_R16-Pad1_ GND R
C14 Net-_C14-Pad1_ GND C
R20 +5V D8 R
R12 D2 GND R
R10 D6 GND R
R14 Net-_C12-Pad1_ +5V R
C12 Net-_C12-Pad1_ GND C
D9 Net-_D11-Pad2_ +24V LED
D11 Net-_D11-Pad1_ Net-_D11-Pad2_ LED
D13 Net-_D13-Pad1_ Net-_D11-Pad1_ LED
D15 Net-_D15-Pad1_ Net-_D13-Pad1_ LED
D17 Net-_D17-Pad1_ Net-_D15-Pad1_ LED
D19 Net-_D19-Pad1_ Net-_D17-Pad1_ LED
D21 Net-_D21-Pad1_ Net-_D19-Pad1_ LED
U5 Net-_C13-Pad1_ D3 D7 NC_02 Net-_D21-Pad1_ Net-_R17-Pad1_ Net-_R17-Pad1_ GND Net-_C15-Pad1_ D8 STCS2A
R22 Net-_R17-Pad1_ GND R
C15 Net-_C15-Pad1_ GND C
R13 D3 GND R
R11 D7 GND R
R15 Net-_C13-Pad1_ +5V R
C13 Net-_C13-Pad1_ GND C
C2 +5V GND C
C4 Net-_C4-Pad1_ GND C
R2 Net-_C4-Pad1_ +5V R
Y1 Net-_U2-Pad12_ GND Net-_U2-Pad13_ Resonator
U3 Net-_C7-Pad1_ GND +5V L7805CD2T-TR
Q1 Net-_Q1-Pad1_ +24V Vsup IPB057N06N
R5 Net-_D4-Pad1_ +24V R
R6 GND Net-_D4-Pad1_ R
D4 Net-_D4-Pad1_ GND D_Zener
D2 Vsup GND D_TVS
C3 Vsup GND C
U1 Net-_C1-Pad1_ Net-_Q1-Pad1_ NC_03 Vsup NC_04 Net-_Q1-Pad1_ Net-_C1-Pad2_ +24V LM74610-Q1
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ C
C8 Net-_C7-Pad1_ GND C
C10 +5V GND C
C11 +5V GND CP
C7 Net-_C7-Pad1_ GND CP
R9 Net-_D7-Pad2_ +5V R
D7 GND Net-_D7-Pad2_ LED
R1 Net-_J1-Pad3_ A8 R
D1 A8 GND D_Zener
C5 A8 GND C
R4 Net-_J1-Pad5_ A0 R
D3 A0 GND D_Zener
C6 A0 GND C
TH1 +5V Net-_J1-Pad6_ Thermistor_PTC
D6 +5V GND D_Zener
R3 A8 +5V R
J3 Net-_J3-Pad1_ +5V Net-_J3-Pad3_ Net-_J3-Pad4_ Net-_C4-Pad1_ GND AVR-ISP-6
R7 Net-_D5-Pad2_ +5V R
D5 Net-_D5-Pad1_ Net-_D5-Pad2_ LED
SW1 GND D11 SW_Push
R8 D11 +5V R
C9 D11 GND C
R18 Net-_R16-Pad1_ Net-_JP3-Pad1_ R
R16 Net-_R16-Pad1_ Net-_JP1-Pad1_ R
JP3 Net-_JP3-Pad1_ GND  
JP1 Net-_JP1-Pad1_ GND  
R19 Net-_R17-Pad1_ Net-_JP4-Pad1_ R
R17 Net-_R17-Pad1_ Net-_JP2-Pad1_ R
JP4 Net-_JP4-Pad1_ GND  
JP2 Net-_JP2-Pad1_ GND  
U2 Net-_TP2-Pad1_ Net-_TP1-Pad1_ D2 D3 Net-_D5-Pad1_ A0 D6 D7 D8 GND +5V Net-_U2-Pad12_ Net-_U2-Pad13_ Net-_C4-Pad1_ D11 Net-_J3-Pad3_ A9 A8 Net-_J3-Pad1_ Net-_J3-Pad4_ ATtiny1634-SU
J1 Vsup GND Net-_J1-Pad3_ GND Net-_J1-Pad5_ Net-_J1-Pad6_ Screw_Terminal_01x06
TP1 Net-_TP1-Pad1_ TestPoint
TP2 Net-_TP2-Pad1_ TestPoint
JP5 +24V Net-_C7-Pad1_ Jumper
JP6 A9 Net-_D4-Pad1_ Jumper
.end
