.title KiCad schematic
J1 VIN GND NC_01 Net-_J1-Pad4_ Net-_J1-Pad5_ GND Screw_Terminal_01x06
U1 Net-_TP2-Pad1_ Net-_TP1-Pad1_ D2 D3 Net-_D4-Pad1_ A0 NC_02 NC_03 NC_04 GND +5V Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_J2-Pad5_ Net-_C11-Pad2_ Net-_J2-Pad3_ NC_05 NC_06 Net-_J2-Pad1_ Net-_J2-Pad4_ ATtiny1634-SU
D13 Net-_D13-Pad1_ Net-_D12-Pad1_ LED
D12 Net-_D12-Pad1_ Net-_D11-Pad1_ LED
D11 Net-_D11-Pad1_ Net-_D11-Pad2_ LED
D14 Net-_D14-Pad1_ Net-_D13-Pad1_ LED
D15 Net-_D15-Pad1_ Net-_D14-Pad1_ LED
U4 +24V D3 GND GND Net-_D17-Pad2_ Net-_D11-Pad2_ +24V NC_07 GND ILD6070
L2 Net-_D15-Pad1_ Net-_D17-Pad2_ INDUCTOR
D17 +24V Net-_D17-Pad2_ D_Schottky
R8 +24V Net-_D11-Pad2_ R
C10 +24V GND CP
C8 GND +24V C
C6 GND D3 C
D1 VIN +24V DIODE
Q1 Net-_D2-Pad2_ VIN +24V Q_PMOS_GDS
D2 +24V Net-_D2-Pad2_ D_Zener
R1 Net-_D2-Pad2_ GND R
C2 +24V GND CP
C4 +5V GND CP
D5 GND Net-_D5-Pad2_ LED
R4 +5V Net-_D5-Pad2_ R
R6 D3 GND R
C1 GND +5V C
R2 +5V Net-_J2-Pad5_ R
Y1 Net-_U1-Pad12_ GND Net-_U1-Pad13_ Resonator
D4 Net-_D4-Pad1_ Net-_D4-Pad2_ LED
R3 +5V Net-_D4-Pad2_ R
TP2 Net-_TP2-Pad1_ TestPoint
TP1 Net-_TP1-Pad1_ TestPoint
J2 Net-_J2-Pad1_ +5V Net-_J2-Pad3_ Net-_J2-Pad4_ Net-_J2-Pad5_ GND AVR-ISP-6
D8 Net-_D8-Pad1_ Net-_D7-Pad1_ LED
D7 Net-_D7-Pad1_ Net-_D6-Pad1_ LED
D6 Net-_D6-Pad1_ Net-_D6-Pad2_ LED
D9 Net-_D10-Pad2_ Net-_D8-Pad1_ LED
D10 Net-_D10-Pad1_ Net-_D10-Pad2_ LED
U3 +24V D2 GND GND Net-_D16-Pad2_ Net-_D6-Pad2_ +24V NC_08 GND ILD6070
L1 Net-_D10-Pad1_ Net-_D16-Pad2_ INDUCTOR
D16 +24V Net-_D16-Pad2_ D_Schottky
R7 +24V Net-_D6-Pad2_ R
C9 +24V GND CP
C7 GND +24V C
C5 GND D2 C
R5 D2 GND R
TH1 Net-_J1-Pad4_ +5V Thermistor_PTC
C3 A0 GND C
D3 A0 GND D_Zener
JP2 D2 D2 Jumper
JP1 GND GND Jumper
JP3 D2 D2 Jumper
JP5 D3 D3 Jumper
JP4 A0 A0 Jumper
SW1 Net-_C11-Pad2_ GND SW_Push
C11 GND Net-_C11-Pad2_ C
R9 +5V Net-_C11-Pad2_ R
R10 A0 Net-_J1-Pad5_ R
U2 +24V GND +5V LM78M05_TO252
.end
